US09126970B2
Step b): Reaction with diphenyl-1,3,5-triazine
10.9 g (23.5 mmol) of 2,4-bis(3-bromophenyl)-6-phenyl-1,3,5-triazine, 13.3 g (47 mmol) of 12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]-fluorene and 29.2 g of Rb2CO3 are suspended in 250 ml of p-xylene. 0.95 g (4.2 mmol) of Pd(OAc)2 and 12.6 ml of a 1 M tri-tert-butylphosphine solution are added to this suspension. The reaction mixture is heated under reflux for 24 h. After cooling, the organic phase is separated off, washed three times with 200 ml of water and evaporated to dryness. The residue is extracted with hot toluene and recrystallised three times from toluene and finally sublimed in a high vacuum, giving 13.1 g (15 mmol), corresponding to 53% of theory. The purity is 99.9%.

reactant | 2,4-bis(3-bromophenyl)-6-phenyl-1,3,5-triazine | 23.5 mmol, 10.9 g | BrC=1C=C(C=CC1)C1=NC(=NC(=N1)C1=CC(=CC=C1)Br)C1=CC=CC=C1 | C21H13Br2N3
reactant | 12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]-fluorene | 47 mmol, 13.3 g | CC1(C2=CC=CC=C2C=2C1=CC=1NC3=CC=CC=C3C1C2)C | C21H17N
reactant | tri-tert-butylphosphine | 1 M | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | p-xylene | 250 ml | CC=1C=CC(=CC1)C | C8H10
catalyst | Pd(OAc)2 | 4.2 mmol, 0.95 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | diphenyl-1,3,5-triazine | C1(=CC=CC=C1)C1=NC(=NC=N1)C1=CC=CC=C1 | C15H11N3
